US06133253
119a. 5-acetoxy-2-methoxypyridine
To 47.6 mL of boron trifluoride etherate (387 mmol, Aldrich) cooled to -10° C. under N2 was added 24 g (193mmol, Aldrich)) of 5-amino-2-methoxypyridine dissolved in 100 mL of dimethoxyethane. Then tert-butyl nitrite (20.2 mL, 193 mmol, Aldrich) was added at a rate which kept the temperature below 0° C. After 1 hour at -10° C. pentane (400 mL) was then added to the reaction mixture, the pentane solution was decanted, and the residue was washed with cold ether and dissolved in 200 mL of acetic anhydride. The resulting solution was heated to 100° C.±5° C. for 1 hour. The solvent was removed under vacuum, and the residue was suspended in saturated aqueous Na2CO3 (200 mL) and extracted with ethyl ether (3×200 mL). The ether solution was dried (MgSO4), the solvent was removed in vacuo, and the residue was chromatographed on silica gel, eluting with 95:5 to 80:20 hexane:ethyl acetate to give 7.3 (20.7%) g of the title compound. MS (CI/NH3) m/e: 168 (M+H)+, 185 (M+NH4)+. 1H NMR (CDCl3 300 MHz) δ 2.30 (s, 3H), 3.92 (s, 3H), 6.75 (d, J=9.0 Hz 1H), 7.35 (dd, J=2.5,9.0 1H), 7.95 (d, J=3.0 Hz 1H). Anal. calcd. for C8H9NO3C, 57.48 H, 5.43; N, 8.38. Found: C, 57.46 H, 5.40; N, 7.99.

reactant | boron trifluoride etherate | 387 mmol, 47.6 mL | B(F)(F)F.CCOCC
reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | tert-butyl nitrite | 193 mmol, 20.2 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | pentane | 400 mL | CCCCC | C5H12
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
product | 5-acetoxy-2-methoxypyridine | C(C)(=O)OC=1C=CC(=NC1)OC | C8H9NO3
